US05599814
b. 3-Chloro-5-nitrotoluene
To a stirred mixture of 2-chloro-4-methyl-6-nitroaniline (7.39 g, 39.7 mM) and concentrated sulfuric acid (6.2 mL) in absolute ethanol (50 mL) at 0°-5° C. was slowly added a solution of sodium nitrite (6.85 g, 99.3 mM) in water (6 mL). The temperature of the reaction mixture was not allowed to exceed 5° C. during the addition. After the addition was completed, the reaction mixture was stirred at room temperature for 0.5 hr and then at reflux until the evolution of gas from the reaction mixture ceased. The reaction mixture was allowed to cool and was concentrated. The residue was slurried with ether and then filtered to remove the solids. The liltrate was concentrated and the residue chromatographed (eluant: diethyl ether/hexane; 1/9) to provide (6.25 g, 92%) the title compound as a yellow crystalline solid, mp 60.5°-61° C.; MS(CI): 172 (M+H).

reactant | 2-chloro-4-methyl-6-nitroaniline | 39.7 mM, 7.39 g | ClC1=C(N)C(=CC(=C1)C)[N+](=O)[O-] | C7H7ClN2O2
reactant | sulfuric acid | 6.2 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 99.3 mM, 6.85 g | N(=O)[O-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | water | 6 mL | O | H2O
product | 3-Chloro-5-nitrotoluene | 6.25 g, 92% | ClC=1C=C(C=C(C1)[N+](=O)[O-])C | C7H6ClNO2
